US08217029B2
177.i) (R)-1-(6-Fluoro-quinolin-4-yl)-pyrrolidin-3-ylamine
Starting from 4-bromo-6-fluoroquinoline (commercial) and (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester (commercial) the title compound was prepared according to procedure F followed by procedure E and was isolated as a yellow solid (212 mg, 43% over two steps).

reactant | 4-bromo-6-fluoroquinoline | BrC1=CC=NC2=CC=C(C=C12)F | C9H5BrFN
reactant | (R)-pyrrolidin-3-yl-carbamic acid tert-butyl ester | C(C)(C)(C)OC(N[C@H]1CNCC1)=O | C9H18N2O2
product | (R)-1-(6-Fluoro-quinolin-4-yl)-pyrrolidin-3-ylamine | FC=1C=C2C(=CC=NC2=CC1)N1C[C@@H](CC1)N | C13H14FN3
